US06569860B2
To a solution of 1-phenyl-3-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-1H-pyrazole-4-carboxylic acid trimethylsilylethyl ester (1.27 g, 2.29 mmol) in 10 mL DMF under N2, was added tetra-n-butylammonium fluoride (2.75 mL of 1M THF solution, 2.75 mmol). The mixture was allowed to stir at room temp. for 2 hrs. The solvent was evaporated under high vacuum (60° C. max). Water was added and the mixture was extracted. After addition of 4 mL 1N HCl a white precipitate separated which was filtered off. This material was triturated in 10 mL boiling EtOH to afford 684 mg of 1-phenyl-3-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-1H-pyrazole-4-carboxylic acid as a white solid, mp 220.6°-220.8° C.

reactant | 1-phenyl-3-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-1H-pyrazole-4-carboxylic acid trimethylsilylethyl ester | 2.29 mmol, 1.27 g | C[Si](C)(C)CCOC(=O)C=1C(=NN(C1)C1=CC=CC=C1)NC(=O)OCC=1OC2=C(C1)C=C(C=C2)C2=CC=CC=C2 | C31H31N3O5Si
reactant | tetra-n-butylammonium fluoride | 2.75 mmol, 1M, 2.75 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-phenyl-3-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-1H-pyrazole-4-carboxylic acid | 684 mg | C1(=CC=CC=C1)N1N=C(C(=C1)C(=O)O)NC(=O)OCC=1OC2=C(C1)C=C(C=C2)C2=CC=CC=C2 | C26H19N3O5
